US07582769B2
Trans-4-phenoxymethylcyclohexylamine trifluoroacetate (1.2 mmol) is dissolved in a mixture of 4 ml of THF and 4 mL of MeOH in a 20 ml glass vial equipped with a magnetic stirrer and a screw cap. 117 mg of cyclohexanone and 3 g of 3 Å molecular sieves are added. The mixture is stirred for 10 min. after which 2.4 mL of 1N sodiumcyanoborohydride in tetrahydrofuran is added. The reaction stirred 4 days at room temperature then filtered through celite washing through with 30 mL of dichloromethane. The organic phase is washed with 10 mL of water, 10 mL of brine, dried (MgSO4), filtered and concentrated in vacuo to give 300 mg of cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine.

reactant | Trans-4-phenoxymethylcyclohexylamine trifluoroacetate | 1.2 mmol | FC(C(=O)O)(F)F.O(C1=CC=CC=C1)C[C@@H]1CC[C@H](CC1)N
reactant | cyclohexanone | 117 mg | C1(CCCCC1)=O | C6H10O
reactant | sodiumcyanoborohydride | 1N, 2.4 mL | C(#N)[BH3-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine | 300 mg | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)COC1=CC=CC=C1 | C19H29NO
